* sg13g2-bandgap -- bandgap_startup PEX (post-layout) PVT testbench
* (issue #14). Generated from
* sim/startup-trip-point-pex/testbench/tb_startup_trip_point_pex.spice.tmpl
* by sim/startup-trip-point-pex/run_pvt_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep. Full rationale is in sim/startup-trip-point-pex/README.md.
*
* Generated for: corner=fs temp=-40C vdd=2.97V
* DUT git sha (design/netlist/bandgap_startup.spice, for the spliced-in
* resistor device -- see below):
*   66ac99d
* Layout git sha (layout/bandgap_startup/bandgap_startup.gds, extraction
* input):
*   364d7dc
* PDK: ihp-sg13g2 /tmp/ihp-pdk-fetch/extract (see sim/pdk.json for the pinned release)
* OSDI models: /tmp/ihp-pdk-fetch/extract/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh)
*
* THIS IS A HYBRID PEX NETLIST, NOT A PURE LAYOUT EXTRACTION -- read
* sim/startup-trip-point-pex/README.md "What this does and does not
* model" before trusting a result here. Short version:
*   - XMSENSE/XMKFB (both sg13_hv_nmos) are re-encoded from `klt extract
*     --deck sg13g2 --parasitics layout/bandgap_startup/
*     bandgap_startup.gds` (layout/bandgap_startup/bandgap_startup.pex.spice,
*     pex_extract_report.json): real drawn W/L and junction AS/AD/PS/PD
*     from the routed layout, re-expressed as X-subckt calls to the real
*     sg13_hv_nmos compact model. Their D/G/S node roles match the
*     schematic's own convention exactly (no swap, unlike
*     core-open-loop-bias-pex) -- only the body terminal differs (see
*     below).
*   - **XMSENSE's extracted width is now w=10u, matching the schematic
*     (issue #32).** The committed layout
*     (layout/bandgap_startup/generate.py, issue #11/PR #19) originally
*     drew XMSENSE at w=2u, before decision record 0003 (issue #24/PR #29)
*     widened it to w=10u in design/netlist/bandgap_startup.spice to fix a
*     real 125C startup-release margin bug -- the layout was not
*     regenerated to match until issue #32. This testbench is
*     as-drawn (w=10u): PEX evidence now reflects the corrected, in-sync
*     layout. See sim/startup-trip-point-pex/README.md for the full
*     before/after account.
*   - This direct sns1-sweep methodology (0 -> vdd) does NOT, by itself,
*     reveal decision record 0003's original margin bug either way (at
*     w=2u or w=10u) -- it always reaches full release by the time sns1
*     hits vdd, same limitation sim/startup-trip-point's own (pre-PEX)
*     records already note. Whether the margin bug is present only shows
*     up by comparing this record's `vtrip_v` against
*     sim/core-open-loop-bias-pex's own real `sns1` operating point at the
*     same corner -- see sim/startup-trip-point-pex/README.md
*     "Cross-bench observation" for that comparison, which at the
*     corrected w=10u width now clears at all 45 points (the 4 points that
*     failed at the stale w=2u width -- wcs_125c_{2.97,3.30,3.63}v,
*     sf_125c_3.63v -- now pass).
*   - XRPU (rhigh) is NOT extracted from the layout at all -- same
*     bipolar/resistor recognition gap as core-open-loop-bias-pex. Spliced
*     in verbatim from design/netlist/bandgap_startup.spice, wired to the
*     same real layout net names (vdd/det) the extraction itself reports
*     as real, physically-routed pins.
*   - Both extracted devices' body terminals land on the deck's own
*     synthesized global fallback net (`vsubs` in
*     layout/bandgap_startup/bandgap_startup.pex.spice), not the
*     schematic's real body-tied-to-vss (klayout-tools, filed generically;
*     see layout/README.md's LVS cause 2). This testbench ties body to
*     vss directly, mirroring the schematic's real intent, rather than
*     wiring to a deck-synthesized net this testbench has no independent
*     way to validate.
*   - Same zero-wire-parasitics caveat as core-open-loop-bias-pex: the
*     sg13g2 deck's PARASITICS.metals/metal_overlaps tables are empty for
*     Metal1/Metal2, so `--parasitics` reports zero wire R/C here too.

.lib "/tmp/ihp-pdk-fetch/extract/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_fs
.lib "/tmp/ihp-pdk-fetch/extract/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib" res_typ

.options temp=-40 tnom=27

Vvdd vdd 0 dc 2.97
Vvss vss 0 dc 0
* bandgap_startup.spice wires the rhigh bulk terminal to the global
* substrate net `sub!`; tied to vss through a 0 V source here, as in
* sim/startup-trip-point.
Vsub sub! vss dc 0

* FIXTURE 1 -- sns1 stimulus, same convention as sim/startup-trip-point:
* sns1 is bandgap_core's own sense node in the assembled block; here it is
* driven directly so the startup circuit's response can be swept from
* "core is dead" (sns1 = 0) to "core is up" (sns1 = vdd) in one analysis.
Vsns1 sns1 vss dc 0

* FIXTURE 2 -- fb load, same convention as sim/startup-trip-point: nothing
* drives fb high in the design yet (no error amplifier -- issue #9's scope
* cut), so this weak pull-up stands in for whatever eventually holds fb
* high once XMKFB turns off.
Rfbpu vdd fb 10meg

* Resistor -- schematic-sourced, see file header above.
XRPU vdd det sub! rhigh w=1u l=1411.3u m=1 b=0

* Extracted NMOS switches -- see file header above for the body-net
* substitution; XMSENSE's w/as/ad/ps/pd below now match the corrected,
* regenerated layout (issue #32; layout/bandgap_startup/pex_extract_report.json).
XMSENSE det sns1 vss vss sg13_hv_nmos w=10u l=0.5u ng=1 m=1 as=4p ad=4p ps=20.8u pd=20.8u
XMKFB fb det vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 as=0.8p ad=0.8p ps=4.8u pd=4.8u

.control
pre_osdi /tmp/ihp-pdk-fetch/extract/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /tmp/ihp-pdk-fetch/extract/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /tmp/ihp-pdk-fetch/extract/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /tmp/ihp-pdk-fetch/extract/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi
* 1) cold-start state: core dead (sns1 = 0), startup must be engaged.
op
print v(det) v(fb)
* 2) disengage behaviour: sweep the core's sense node up and find where the
*    detect node releases, plus the fully-running-core end state.
dc Vsns1 0 2.97 0.005
meas dc vtrip when v(det)=1.4850 cross=1
meas dc det_off find v(det) at=2.9200
meas dc fb_off find v(fb) at=2.9200
.endc
.end
